US05264454
A mixture of 5-amino-6-(2-methylbenzoyl)indan (5.02 g), diethyl malonate (6.4 g) and DBU (0.3 ml) was heated at 170°-180° C. for 1 hour. To this reaction mixture was added ethanol to give crystals of ethyl 4-(2-methylphenyl)-2-oxo-1,2,7,8-tetrahydro-6H-cyclopenta[g]quinoline-3-carboxylate (6.81 g, 98.1%). Recrystallization from ethanol-chloroform gave colorless crystals, m.p. 296°-298° C.

reactant | 5-amino-6-(2-methylbenzoyl)indan | 5.02 g | NC=1C=C2CCCC2=CC1C(C1=C(C=CC=C1)C)=O | C17H17NO
reactant | diethyl malonate | 6.4 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | DBU | 0.3 ml | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | C(C)O | C2H6O
product | ethyl 4-(2-methylphenyl)-2-oxo-1,2,7,8-tetrahydro-6H-cyclopenta[g]quinoline-3-carboxylate | 6.81 g, 98.1% | CC1=C(C=CC=C1)C1=C(C(NC2=CC3=C(C=C12)CCC3)=O)C(=O)OCC | C22H21NO3
